US06114390
b) 4-(Methoxycarbonylmethyl)benzenemethanamine-hydrochloride
A solution of 8.8 g (0.05 Mol) of methyl 4-cyanobenzene acetate in 200 ml of methanol was hydrogenated, after the addition of 50 ml of 1 N aqueous hydrochloric acid and 3 g of palladium on activated charcoal (10%), at ambient temperature under a hydrogen pressure of 3 bar until the uptake of hydrogen had ended. The solution freed from catalyst was evaporated down, the residue was combined with two batches of 50 ml of toluene and evaporated down again. 10.7 g (99% of theory) of a crude crystalline material was obtained which was used without further purification in the next step.

reactant | methyl 4-cyanobenzene acetate | 0.05 Mol, 8.8 g | C(#N)C1=CC=C(C=C1)CC(=O)OC | C10H9NO2
reactant | hydrochloric acid | 1 N, 50 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium on activated charcoal | 3 g | [Pd] | Pd
product | 4-(Methoxycarbonylmethyl)benzenemethanamine-hydrochloride | Cl.COC(=O)CC1=CC=C(C=C1)CN | InChI=1S/C10H13NO2.ClH/c1-13-10(12)6-8-2-4-9(7-11)5-3-8;/h2-5H,6-7,11H2,1H3;1H
